US05376668
A solution of 3-(3-chloro-1,2,5-thiadiazol-4-yl)pyridine (2.0 g, 10.1 mmol) in DMF (10 ml) was cooled to 5° C. whereupon potassium carbonate (2.8 g, 20.2 mmol) and sodium hydrosulfide monohydrate (1.5 g, 20.2 mmol ) were added to the reaction. Stirred for 1 h then potassium carbonate (1.4 g, 10.1 mmol) and a solution of 3-(2-thienyl)-1-chloro-propane (1.8 g, 11.2 mmol) in DMF (5 ml) were added to the reaction and stirred for 1 h at room temperature. The reaction was quenched with water then extracted with methylene chloride (3×75 ml). The organic phase was dried over NaCl/Na2SO4 then evaporated. The residue was purified by flash chromatography eluting with 1:1 ethyl acetate/hexanes to yield 1.0 g of 3-(3-(3-(2-thienyl)-1-propylthio)-1,2,5-thiadiazol-4-yl)pyridine. Quaternization and reduction was done as described in example 9. (Compound 66). M.p. 98°-100° C.

reactant | 3-(3-chloro-1,2,5-thiadiazol-4-yl)pyridine | 10.1 mmol, 2.0 g | ClC1=NSN=C1C=1C=NC=CC1 | C7H4ClN3S
reactant | potassium carbonate | 20.2 mmol, 2.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium hydrosulfide monohydrate | 20.2 mmol, 1.5 g | O.[SH-].[Na+]
reactant | potassium carbonate | 10.1 mmol, 1.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-(2-thienyl)-1-chloro-propane | 11.2 mmol, 1.8 g | S1C(=CC=C1)CCCCl | C7H9ClS
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 3-(3-(3-(2-thienyl)-1-propylthio)-1,2,5-thiadiazol-4-yl)pyridine | 1.0 g | S1C(=CC=C1)CCCSC1=NSN=C1C=1C=NC=CC1 | C14H13N3S3
